US08486952B2
A solution of 2,4-dichloro-7-(3,4-difluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (421 mg, 1.398 mmol), methanamine, HCl (283 mg, 4.19 mmol) and DIPEA (1.465 mL, 8.39 mmol) in methanol (10 mL) was stirred at rt for 1 h. The solvent was removed in vacuum and the crude product was purified by column chromatography on silica gel to afford 2-chloro-7-(3,4-difluorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (154 mg, 0.521 mmol, 37.2% yield). LC-MS (M+H)+=296.2.

reactant | 2,4-dichloro-7-(3,4-difluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.398 mmol, 421 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC(=C(C=C2)F)F)Cl | C13H8Cl2F2N2
reactant | DIPEA | 8.39 mmol, 1.465 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | methanol | 10 mL | CO | CH4O
product | 2-chloro-7-(3,4-difluorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.521 mmol, 154 mg, 37.2% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC(=C(C=C2)F)F)NC | C14H12ClF2N3
